US05260460
62 g (150 mmol) of 6,7-dibromo-5-nitro-2,2,3,3-tetrafluoro-benzo(1.4)dioxane, 41 g (300 mmol) of potassium carbonate and 5 g of palladium-carbon (10% strength) are stirred at 50° C. and a hydrogen pressure of 90 bar in 500 ml of methanol in an autoclave for 20 hours. The reaction mixture is filtered, the filtrate is mixed with 500 ml of water and extracted thoroughly with ether, and the extract is dried over sodium sulphate and concentrated. Vacuum distillation yields 26 g (78% of theory) of 5-amino-2,2,3,3-tetrafluoro-benzo(1.4)dioxane having a boiling point of 99° to 101° C./16 mm.

reactant | 6,7-dibromo-5-nitro-2,2,3,3-tetrafluoro-benzo(1.4)dioxane | 150 mmol, 62 g | BrC1=C(C2=C(OC(C(O2)(F)F)(F)F)C=C1Br)[N+](=O)[O-] | C8HBr2F4NO4
reactant | potassium carbonate | 300 mmol, 41 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium-carbon | 5 g | [C].[Pd]
product | 5-amino-2,2,3,3-tetrafluoro-benzo(1.4)dioxane | 26 g, 78% | NC1=CC=CC=2OC(C(OC21)(F)F)(F)F | C8H5F4NO2
